US09193707B2
2. Synthesis of 4-(4-chloroquinazolin-2-yl)-N,N-dimethylaniline
Into a 100-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-[4-(dimethylamino)phenyl]quinazolin-4-ol (2 g, 7.54 mmol, 1.00 equiv) in POCl3 (20 mL). The resulting solution was stirred for 5 h at 140° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was dissolved in 50 mL of dichloromethane. The resulting mixture was washed with 2×20 mL of saturation sodium bicarbonate solution and 1×20 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 2.0 g (93%) of 4-(4-chloroquinazolin-2-yl)-N,N-dimethylaniline as a red solid. MS (ESI) m/z 284 ([M+H]+).

reactant | 2-[4-(dimethylamino)phenyl]quinazolin-4-ol | 7.54 mmol, 2 g, 1.00 equiv | CN(C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)O)C | C16H15N3O
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(4-chloroquinazolin-2-yl)-N,N-dimethylaniline | ClC1=NC(=NC2=CC=CC=C12)C1=CC=C(N(C)C)C=C1 | C16H14ClN3
